US05208353
Preparation of (2R-trans)-(2-naphthalenyl) 3-[2-(8-phenyloctyl)phenyl]oxiranecarboxylate
Preparation of (E)-1-(2-naphthalenyl)-3-2-(8-phenyloctyl)phenyl]-2-propen-1-one. To a cooled (5° C.) solution of ethanol (95%, 3.53 L) in a 12 L 3 -neck flask, under nitrogen, was added sodium metal (36.8 g, 1.16 mol) over a period of 30 min. After the sodium had dissolved, stirring was continued for 5 min, and 2-(8phenyloctyl)benzaldehyde (200 g, 0.68 mol) was added. The reaction was cooled to 10° C. and 2-acetonaphthone (115.6 g, 0.679 mol) was added in one portion. The reaction was seeded with the desired product (2 g) and stirred for 18 h at ambient temperature. A yellow precipitate was present after that time. The reaction was treated with ice water (350 mL), cooled to 10° C., and filtered. The filter cake was washed with 50% aqueous ethanol (400 mL). The product, a yellow solid, was air dried and any lumps were pulverized. The product was dried at 25° C. (0.1 mm Hg) for 24 h to yield 248 g (89%): mp 41.0-42.5° C.; IR (KBr) 1658, 1597, 1467, 1325, 1185, 1124, 1016, 970, 763 cm-1; 1H NMR (CDCl3, 360 MHz) δ8.55 (d, 1 H, naphthyl-1H, J=1.2 Hz), 8 21 (d, 1 H, J=15.5 Hz, olefinic proton), 7.12-8.11 (m, 15 H), 7.62 (d, 1 H, J=15.6 Hz), 2.75 (t, 2 H, J=7.71 Hz), 2.57 (t, 2 H, J=7.71 Hz), 1.59 (b, 4 H), 1.29 (b, 8 H); 13C NMR (CDCl3) δ190.25, 143.31, 142.86, 142.40, 135.59, 135.46, 133 47, 132.57, 130.21, 130 15, 129.91, 129.47, 128.52, 128.34, 128.15, 127.79, 126.72, 126.58, 126.31, 125.47, 124.49, 123.34, 35.91, 33.39, 31.72, 31.42, 29.41, 29.38, 29.34, 29.23; TLC Rf 0.55 (CH2Cl2 :n-hexane, 3:1., Silica gel GF); HPLC RT 17.7 min (Waters μ-Bondapak®C-18; 30 cm×3.9 mm; CH3CN:water, 85:15; 1.5 ml/min; UV detection at 230 nm). Anal. Calcd for C33H34O: C, 88.74; H, 7.67. Found: C, 88.84; H, 7.68.

reactant | 2-propen-1-one | C(C=C)=O | C3H4O
reactant | sodium | 1.16 mol, 36.8 g | [Na] | Na
reactant | 2-(8phenyloctyl)benzaldehyde | 0.68 mol, 200 g | C1(=CC=CC=C1)CCCCCCCCC1=C(C=O)C=CC=C1 | C21H26O
reactant | 2-acetonaphthone | 0.679 mol, 115.6 g | CC(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
reactant | ethanol | 3.53 L | C(C)O | C2H6O
product | (2R-trans)-(2-naphthalenyl) 3-[2-(8-phenyloctyl)phenyl]oxiranecarboxylate | 2 g | C1(=CC=CC=C1)CCCCCCCCC1=C(C=CC=C1)[C@H]1[C@@H](O1)C(=O)OC1=CC2=CC=CC=C2C=C1 | C33H34O3
